US04628115
A solution of 2.00 g of 1-[2-hydroxy-4-(3-hydroxypropoxy)-3-propylphenyl]ethanone in 30 ml of acetone was added dropwise over 45 minutes to a stirred, ice cooled solution of 4.0 ml of Jones reagent in 10 ml of acetone. After 15 additional minutes, the cooling bath was removed and the reaction mixture was stirred at 23° for 15 minutes. Jones reagent (0.5 ml) was added and stirring was continued for 15 minutes. The reaction mixture was concentrated in vacuo and the residue was treated with water and extracted with ether. The ether extract was washed with three portions of 1N sodium hydroxide and the aqueous layers were combined and acidified. The product was extracted with ether and the dried (over magnesium sulfate) extract was concentrated in vacuo to a solid (1.48 g). Recrystallization from ether-hexane gave 1.21 g, mp 142°-146°, (57% yield) of 3-(4-acetyl-3-hydroxy-2-propylphenoxy)propanoic acid, the titled compound.

reactant | 1-[2-hydroxy-4-(3-hydroxypropoxy)-3-propylphenyl]ethanone | 2.00 g | OC1=C(C=CC(=C1CCC)OCCCO)C(C)=O | C14H20O4
reactant | Jones reagent | 4.0 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(4-acetyl-3-hydroxy-2-propylphenoxy)propanoic acid | 57% yield | C(C)(=O)C1=C(C(=C(OCCC(=O)O)C=C1)CCC)O | C14H18O5
